US20010044539A1
6,7,8,9-tetrahydro-3H,5H-[1,2,4]oxadiazolo[4,3-a]azepin-3-one
To a solution of 2 g (16 mmol) of 2-hydroximinohomopiperidine (Maybridge) in 20 mL of methylene chloride (CH2Cl2) was added 2.5g (16 mmol) of 1,1′-carbonyldiimidazole (CDI). This was stirred at 25° C. for six days. This solution was diluted with CH2Cl2, washed with water, dried (MgSO4), filtered and concentrated to afford 2.2 g (89% yield) of the title compound as a white semi-solid.

reactant | 2-hydroximinohomopiperidine | 16 mmol, 2 g | N(O)=C1NCCCCC1 | C6H12N2O
reactant | 1,1′-carbonyldiimidazole | 16 mmol, 2.5g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6,7,8,9-tetrahydro-3H,5H-[1,2,4]oxadiazolo[4,3-a]azepin-3-one | 2.2 g, 89% yield | N=1OC(N2C1CCCCC2)=O | C7H10N2O2
